US06800651B2
N-(4-(2,4-Difluorophenoxy)phenyl)-N-ethylsulfonylamine
Ethanesulfonyl chloride (9.4 mL, 99 mmol) was added dropwise over 5 min to a dark gray solution of 4-(2,4-difluorophenoxy)aniline (20.0 g, 90 mmol) and 4-dimethylaminopyridine (16.6 g, 136 mmol) in methylene chloride (180 mL) at room temperature under nitrogen, after which the mixture was stirred at room temperature for 26 h. The mixture was washed with saturated aqueous sodium bicarbonate solution (200 mL), brine (100 mL), dried over MgSO4, filtered and the solvent was removed under reduced pressure to afford the crude product as an amber oil. This residue was triturated with diethyl ether (300 mL) and filtered to provide an amber solid. This material was further purified by flash column chromatography on silica gel, eluting with ethyl acetate/chloroform (1:9), to provide the title compound as an off-white powder: 1H NMR (300 MHz, DMSO-d6) 9.69 (s, 1H), 7.52-7.44 (m, 1H), 7.28-7.09 (m, 2H), 7.20 (d, J=8.8 Hz, 2H), 6.95 (d, J=8.8 Hz, 2H), 3.03 (q, J=7.6 Hz, 2H), 2.50 (t, J=1.6 Hz, 3H).

reactant | Ethanesulfonyl chloride | 99 mmol, 9.4 mL | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | 4-(2,4-difluorophenoxy)aniline | 90 mmol, 20.0 g | FC1=C(OC2=CC=C(N)C=C2)C=CC(=C1)F | C12H9F2NO
catalyst | 4-dimethylaminopyridine | 136 mmol, 16.6 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 180 mL | C(Cl)Cl | CH2Cl2
product | N-(4-(2,4-Difluorophenoxy)phenyl)-N-ethylsulfonylamine | FC1=C(OC2=CC=C(C=C2)NS(=O)(=O)CC)C=CC(=C1)F | C14H13F2NO3S
